US07816409B2
Table 2 resumes the tests realized with the agents propylene glycol and menthol proposed for the stabilization of sevoflurane against the degradation by alumina and the results for total impurity and for the single impurity HFIP obtained with and without alumina after stress at 60° C. for 22 hours. The total impurity is the sum of the ratio between the area for each impurity and the area of the internal standard (toluene) and HFIP is the ratio between the area of HFIP and the area of toluene obtained in the chromatograms.

reactant | propylene glycol | C(C(C)O)O | C3H8O2
reactant | menthol | C1(CC(C(CC1)C(C)C)O)C | C10H20O
reactant | sevoflurane | C(OC(C(F)(F)F)C(F)(F)F)F | C4H3F7O
product | HFIP | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
